US07166595B2
N-[1-(1-Benzyl-4-cyano-5-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-(2-guandino-ethyl)-4-methyl-benzamide
To a solution of N-[1-(1-benzyl-4-cyano-5-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-(2-amino-ethyl)-4-methyl-benzamide (75 mg, 0.16 mMol) in DMF (1.5 mL) was added 1H-pyrazole-1-carboxamidine hydrochloride (25 mg, 0.17 mMol) and diisopropylethyl amine (57 μL, 0.33 mMol). The reaction was stirred at RT for 16 h, quenched with water (2 mL) and diluted with methylene chloride (2 mL). The aqueous layer was adjusted to pH 7 and extracted with methylene chloride (2×5 mL). The combined organic layers were dried (Na2SO4), filtered, and evaporated. Purification of the residue by reverse phase HPLC furnished the title compound (38 mg, 37%) as a white powder. MS (ES) m/e 500.4 (M+H)+.

reactant | N-[1-(1-benzyl-4-cyano-5-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-(2-amino-ethyl)-4-methyl-benzamide | 0.16 mMol, 75 mg | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C#N)C(C(C)C)N(C(C1=CC=C(C=C1)C)=O)CCN | C27H31N5O2
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.17 mMol, 25 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropylethyl amine | 0.33 mMol, 57 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-[1-(1-Benzyl-4-cyano-5-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-(2-guandino-ethyl)-4-methyl-benzamide | 38 mg, 37% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C#N)C(C(C)C)N(C(C1=CC=C(C=C1)C)=O)CCNC(=N)N | C28H33N7O2
